US04256757
To a solution of 2.1 g of 8-bromo-6-octyn-1-ol(prepared as described hereafter) in 20 ml of acetone was added dropwise 7.7 ml of a Jones reagent (prepared by dissolving 6.5 g of chromium trioxide in 5.75 ml of conc. sulphuric acid diluted with water to a volume of 25 ml) at 2° to 5° C. over a period of 40 minutes. To it was added 3 ml of isopropanol. The reaction mixture was diluted with diethyl ether, washed with water, a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure to give crude 8-bromo-6-octynoic acid. The crude product, thus obtained, was dissolved in 20 ml of diethyl ether, and diazomethane-etherate was added with cooling in an ice bath until the solution was coloured pale yellow. The reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of benzene and ethyl acetate (50:1) as eluent to give 1.583 g of the title compound having the following physical characteristics:

reactant | 8-bromo-6-octyn-1-ol | 2.1 g | BrCC#CCCCCCO | C8H13BrO
reactant | Jones reagent | 7.7 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropanol | 3 ml | C(C)(C)O | C3H8O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | sulphuric acid | 5.75 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | chromium trioxide | 6.5 g | [O-2].[O-2].[O-2].[Cr+6]
product | 8-bromo-6-octynoic acid | BrCC#CCCCCC(=O)O | C8H11BrO2
